US05602277
A mixture of methyl 3-amino-4-(methylamino)carbonylbenzoate (0.624 g, 0.003 mol) and 1N sodium hydroxide (4.5 mol, 0.0045 mol) was stirred at room temperature for 4 h. The mixture was neutralized with concentrated hydrochloric acid and then acetic acid was added to bring the pH close to 3. The precipitate obtained was collected by filtration, washed with water, and dried under vacuum over acetone for 24 h to give 0.4 g (69%) of 3-amino-4-(methylamino)carbonylbenzoic acid as a pale yellow powder, mp 215°-217° C.

reactant | methyl 3-amino-4-(methylamino)carbonylbenzoate | 0.003 mol, 0.624 g | NC=1C=C(C(=O)OC)C=CC1C(=O)NC | C10H12N2O3
reactant | sodium hydroxide | 4.5 mol, 1N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-amino-4-(methylamino)carbonylbenzoic acid | 0.4 g, 69% | NC=1C=C(C(=O)O)C=CC1C(=O)NC | C9H10N2O3
